US07994171B2
5-(2-Fluoro-5-(1-phenylcyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide.
Prepared from the coupling between 6-Amino-5-(2-fluoro-5-(1-phenylcyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide and methanesulfonyl chloride (N,N-diisopropylethylamine, ClCH2CH2Cl, r.t.), followed by hydrolysis of the intermediate N-(methylsulfonyl)methanesulfonamide (Cs2CO3, 1:5 H2O/1,4-dioxane, 90° C.). Purification by Shimadzu-VP preparative reverse phase HPLC using the separation method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=10 min, Stop time=12 min, Flow Rate=25 mL/min, Column: Waters-Sunfire 19×100 mm S5, Fraction Collection: 6.70-7.25 min. (UV detection at 220 nm). 1H NMR (500 MHz, CD3OD) δ 8.00-7.95 (overlapping m, 4H), 7.83 (s, 1H), 7.66 (s, 1H), 7.35 (t, J=9.00, 1H), 7.30-7.27 (overlapping m, 6H), 7.18 (m, 1H), 2.94 (s, 3H), 2.88 (s, 3H), 1.37-1.35 (appeared as d, 4H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters Micromass. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=4 ml/min, Column: Xterra MS 7 um, C18, 3.0×50 mm; (ES+) m/z (M+H)+=616.48, HPLC Rt=1.563 min. Analytical HPLC were performed by using Shimadzu-VP instrument with UV detection at 220 nm and 254 nm. Analytical HPLC method: Solvent A=5% MeCN-95% H2O-0.1% TFA, Solvent B=95% MeCN-5% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: Sunfire C18, 3.5 um, 4.6×150 mm, Rt=6.57 min; Column: Xbridge Phenyl 3.5 um, 4.6×150 mm, Rt=5.80 min.

reactant | 6-Amino-5-(2-fluoro-5-(1-phenylcyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1=C(C=CC(=C1)C(NC1(CC1)C1=CC=CC=C1)=O)F | C32H25F2N3O3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(methylsulfonyl)methanesulfonamide | CS(=O)(=O)NS(=O)(=O)C | C2H7NO4S2
product | 5-(2-Fluoro-5-(1-phenylcyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide | FC1=C(C=C(C=C1)C(NC1(CC1)C1=CC=CC=C1)=O)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)N)C1C)NS(=O)(=O)C | C33H27F2N3O5S
